US07157492B2
3,9-Dimethoxy-5H-dibenzo[c,g]chromene
A mixture of 2-[(2-bromo-5-methoxybenzyl)oxy]-7-methoxynaphthalene (9.35 g, 25 mmol), dichlorobis(triphenylphosphine) palladium (1.75 g, 2.5 mmol), and sodium acetate (6.15 g, 75 mmol) in anhydrous dimethylacetamide (500 mL) was stirred at 130° C. under nitrogen for two days. After cooling, the catalyst was filtered off and the dimethylacetamide removed under vacuum. The residue was slurried in methanol (200 mL) and the desired product was isolated by filtration to afford 2.9 g (40%) of a tan solid: mp 190–191° C.; 1H NMR (DMSO-d6): δ 3.81 (3H, s), 3.85 (3H, s), 5.14 (2H, s), 6.92 (1H, d, J=2.6 Hz), 7.00–7.03 (2 H, m), 7.18 (1H, d, J=2.4 Hz), 7.29 (1H, s), 7.79 (1H, d, J=9.0 Hz), 7.92 (1H, d, J=8.7 Hz), 8.26 (1H, s); MS m/z 293 ([M+H]+).

reactant | 2-[(2-bromo-5-methoxybenzyl)oxy]-7-methoxynaphthalene | 25 mmol, 9.35 g | BrC1=C(COC2=CC3=CC(=CC=C3C=C2)OC)C=C(C=C1)OC | C19H17BrO3
reactant | sodium acetate | 75 mmol, 6.15 g | C(C)(=O)[O-].[Na+]
solvent | dimethylacetamide | 500 mL | CC(=O)N(C)C | C4H9NO
product | 3,9-Dimethoxy-5H-dibenzo[c,g]chromene | COC=1C=CC2=C(COC=3C=C4C(=CC23)C=CC(=C4)OC)C1 | C19H16O3
